US07648989B2
Preparation of (2-chloro-5-methyl-pyridin-4-yl)-acetic acid tert-butyl ester
Hexamethyl disilazane (1.33 g, 8.23 mmol) is dissolved in dry toluene (15 ml) under an atmosphere of argon. After thoroughly purging the solvent with argon, the solution is cooled to −78° C., and n-BuLi (5.1 ml of a 1.6 M solution in hexanes, 8.23 mmol) is added. The mixture is stirred for 15 minutes at −78° C. and for 15 minutes at rt, whereupon a clear solution is obtained. Palladium dibenzylideneacetone (Pd2(dba)3, 151 mg, 0.16 mmol) and (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine (136 mg, 0.35 mmol) are added. The mixture is stirred for 10 minutes at RT, then it is cooled to −10° C. Acetic acid tert-butyl ester (924 mg, 7.96 mmol) is slowly added heat. After 10 minutes at −10° C., 2,4-dichloro-5-methyl-pyridine (889 mg, 5.49 mmol) is added in one portion. The reaction mixture is allowed to warm to RT. After 1 h, TLC analysis indicated complete consumption of starting materials. The reaction mixture is diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. The organic layer is separated, washed with brine, dried over Na2SO4, and the solvent is evaporated. The residue is purified by FCC (hexanes/EtOAc, gradient from 100:0 to 90:10) to afford the title compound. 1H NMR (CDCl3, 400 MHz): δ 1.45 (s, 9H), 2.26 (s, 3H), 3.52 (s, 2H), 7.18 (s, 1H), 8.18 (s, 1H). ES+−MS: 242.2, 244.2 (Cl) [M+H]+.

reactant | Hexamethyl disilazane | 8.23 mmol, 1.33 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | (2′-dicyclohexylphosphanyl-biphenyl-2-yl)-dimethyl-amine | 0.35 mmol, 136 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | Acetic acid tert-butyl ester | 7.96 mmol, 924 mg | C(C)(C)(C)OC(C)=O | C6H12O2
reactant | 2,4-dichloro-5-methyl-pyridine | 5.49 mmol, 889 mg | ClC1=NC=C(C(=C1)Cl)C | C6H5Cl2N
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Palladium dibenzylideneacetone | 0.16 mmol, 151 mg | C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1.[Pd]
product | (2-chloro-5-methyl-pyridin-4-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CC1=CC(=NC=C1C)Cl)=O | C12H16ClNO2
